US07109229B2
To a mixture of (1-methyl-4-methoxyl-1H-indol-7-yl)-oxo-acetic acid methyl ester (0.27 g, 1.10 mmol) and 2-(1H-indol-3-yl-acetamide (0.17 g, 1 mmol) in DMF (5 mL) was added a solution of potassium tert-butoxide in THF (1.0 M, 4.0 mL, 4.0 mmol) at room temperature. The reaction mixture was heated at 60° C. for 4 hrs, cooled to room temperature, and quenched with hydrochloric acid (1.0 N). After stirring at room temperature for 30 min, the mixture was extracted with ethyl acetate and the extract was washed with water, saturated aqueous sodium bicarbonate and brine, dried (sodium sulfate), filtered and evaporated. Flash column chromatography on silica gel eluting with chloroform and acetone gave 3-(1H-indol-3-yl)-4-(4-methoxy-1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione (270 mg, 72.7%). 1H NMR (d6-DMSO, 400 MHz) 3.65 (s, 3H), 3.84 (s, 3H), 6.46˜6.55 (m, 4H), 6.78 (d, J=7.6 Hz, 1H), 6.95 (t, J=7.2 Hz, 1H), 7.13 (d, J=3.2 Hz, 1H), 7.32 (d, J=8.0 Hz, 1H), 7.86 (d, J=3.2 Hz, 1H), 11.05 (s, 1H), 11.79 (s, 1H); MS (ES, m/z): C22H17FN3O3: 372.19(M++1), 370.29 (M+−1).

reactant | (1-methyl-4-methoxyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 1.10 mmol, 0.27 g | COC(C(=O)C=1C=CC(=C2C=CN(C12)C)OC)=O | C13H13NO4
reactant | 1H-indol-3-yl-acetamide | 1 mmol, 0.17 g | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 4.0 mmol, 1.0 M, 4.0 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(1H-indol-3-yl)-4-(4-methoxy-1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 270 mg, 72.7% | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C=1C=CC(=C2C=CN(C12)C)OC)=O)=O | C22H17N3O3
